US06414179B1
4-(4-Benzyloxyphenyl)-1,1,1-trifluoro-2-butanone
To a solution of 3-(4-benzyloxyphenyl)propanoic acid (12.8 g, 50 mmol) in dichloromethane (100 ml) were added slowly oxalyl chloride (10 ml, 115 mmol) and two small drops of DMF. The mixture was stirred at room temperature for 4 hours and the excess reagent and solvent was removed in vacuo. The residue was dissolved in dry dichloromethane (100 ml), cooled to 0° C. and trifloroacetic anhydride (21 ml, 150 mmol) was added. To this mixture at 0° C. was added dropwise pyridine (8.1 ml, 100 mmol) over 0.5 hours. The resulting mixture was stirred at room temperature for 3 hours, cooled again to 0° C. and quenched with water (25 ml). After stirring at room temperature for 0.5 hours, the mixture was adjusted to pH 7-8 with solid sodium bicarbonate and diluted with ethyl acetate (300 ml). The organic phase was washed with water, aqueous sodium bicarbonate, brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane:ethyl acetate=5:1 to 4:1) to afford the title material (10.6 g, 68.8%) as a pale yellow solid.

reactant | 3-(4-benzyloxyphenyl)propanoic acid | 50 mmol, 12.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)O | C16H16O3
reactant | oxalyl chloride | 115 mmol, 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifloroacetic anhydride | 150 mmol, 21 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 100 mmol, 8.1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-Benzyloxyphenyl)-1,1,1-trifluoro-2-butanone | 10.6 g, 68.8% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C17H15F3O2
